US09447035B2
To a mixture of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-hydroxy-benzoylamino)propionic acid methyl ester (5.05 g, 9.07 mmol), 3-tert-butoxycarbonylaminopropyl bromide (2.59 g, 10.89 mmol), and potassium carbonate (3.77 g, 27.29 mmol) were added DMF (66 mL) and acetone (132 mL) at room temperature. Then, the resulting suspension was heated to reflux for 15 h at which time TLC analysis indicated the absence of starting material. Then, the reaction mixture was cooled to room temperature and diluted with water and the organic compound was extracted into ethyl acetate (2×150 mL). The combined organic layer was washed with brine solution and dried over anhydrous MgSO4. Filtration and concentration gave the crude residue which was purified by ISCO (150 g) column chromatography to obtain 5.75 g (89%) of (S)-2-[4-(3-tert-butoxycarbonylaminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid methyl ester as a white solid. ES(+)-HRMS m/e calcd. for C32H33Cl4N3O7 (M+Na)+ 734.0965, obsd. 734.0961.

reactant | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-hydroxy-benzoylamino)propionic acid methyl ester | 9.07 mmol, 5.05 g | COC([C@H](CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)NC(C1=C(C=C(C=C1Cl)O)Cl)=O)=O | C24H18Cl4N2O5
reactant | 3-tert-butoxycarbonylaminopropyl bromide | 10.89 mmol, 2.59 g | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
reactant | potassium carbonate | 27.29 mmol, 3.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 66 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetone | 132 mL | CC(=O)C | C3H6O
product | (S)-2-[4-(3-tert-butoxycarbonylaminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid methyl ester | 5.75 g, 89% | COC([C@H](CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)NC(C1=C(C=C(C=C1Cl)OCCCNC(=O)OC(C)(C)C)Cl)=O)=O | C32H33Cl4N3O7
